US07015218B1
1-(4-Fluorophenyl)-5-methylpyrazole-4-carboxylic acid
Then, ethyl 1-(4-fluorophenyl)-5-methylpyrazole-4-carboxylate (17.7 g) and sodium hydroxide (3.5 g) were added to a mixed solvent of ethanol (80 ml)-water (80 ml), and the mixture was stirred at a refluxing temperature for 2 h. After the reaction, ethanol was evaporated and dilute hydrochloric acid was added. The mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was recrystallized from ethyl acetate to give the title compound (12.3 g), melting point: 165–166° C.

reactant | ethyl 1-(4-fluorophenyl)-5-methylpyrazole-4-carboxylate | 17.7 g | FC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)OCC | C13H13FN2O2
reactant | sodium hydroxide | 3.5 g | [OH-].[Na+]
reactant | water | 80 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 1-(4-Fluorophenyl)-5-methylpyrazole-4-carboxylic acid | 12.3 g | FC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)O | C11H9FN2O2
